US09359375B2
A solution of N-Boc-O-methyl-D-serine (438 mg, 2.00 mmol), HOBt monohydrate (364 mg, 2.38 mmol) and EDC (460 mg, 2.39 mmol) in DMF (9 mL) was stirred at room temperature for 2 h, conc. NH4OH (0.700 mL, ca. 9.80 mmol) was added. The mixture was stirred for 18 h. Water and EtOAc were added. The organic phase was washed with 5% NaHCO3, dried over Na2SO4, concentrated in vacuo to give (R)-tert-butyl 1-amino-3-methoxy-1-oxopropan-2-ylcarbamate (100 mg). The aqueous phase was further extracted with nBuOH (30 mL). The nBuOH solution was washed with 5% NaHCO3, then was concentrated in vacuo to give another portion of (R)-tert-butyl 1-amino-3-methoxy-1-oxopropan-2-ylcarbamate (242 mg).

reactant | N-Boc-O-methyl-D-serine | 2.00 mmol, 438 mg | C(=O)(OC(C)(C)C)N[C@H](COC)C(=O)O | C9H17NO5
reactant | HOBt monohydrate | 2.38 mmol, 364 mg | C1=CC=C2C(=C1)N=NN2O.O
reactant | EDC | 2.39 mmol, 460 mg
reactant | NH4OH | ca. 9.80 mmol, 0.700 mL | [NH4+].[OH-]
solvent | DMF | 9 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | Water | O | H2O
product | (R)-tert-butyl 1-amino-3-methoxy-1-oxopropan-2-ylcarbamate | 100 mg | NC([C@@H](COC)NC(OC(C)(C)C)=O)=O | C9H18N2O4
